US08039458B2
2-Bromo-N-((dimethylamino)methylene)-5-fluorobenzamide.
A mixture of 2-bromo-5-fluorobenzamide (9.50 g, 43.57 mmol) and N,N-dimethylformamide dimethyl acetal (20 ml) was heated under argon at 120° C. for 1.5 h. The methanol formed during the reaction was collected through a reflux condenser. The reaction mixture was allowed to cool and the excess N,N-dimethylformamide dimethyl acetal was removed under reduced pressure. The residual oil was crystallized from a mixture of ether (75 ml) and hexane (50 ml) to give 8.55 g (72% yield) of the title material as white crystals. 1HNMR 400 MHz (CDCl3) δ (ppm): 3.21 (3H, s, CH3), 3.24 (3H, s, CH3), 7.0 (1H, m, aromatic), 7.58 (1H, dd, J=5.0 Hz and J=8.5 Hz, aromatic), 7.64 (1H, dd, J=3.0 Hz and J=9.1 Hz, aromatic), 8.64 (1H, s, CH).

reactant | 2-bromo-5-fluorobenzamide | 43.57 mmol, 9.50 g | BrC1=C(C(=O)N)C=C(C=C1)F | C7H5BrFNO
reactant | N,N-dimethylformamide dimethyl acetal | 20 ml | COC(N(C)C)OC | C5H13NO2
solvent | methanol | CO | CH4O
product | 2-Bromo-N-((dimethylamino)methylene)-5-fluorobenzamide | 8.55 g, 72% yield | BrC1=C(C(=O)N=CN(C)C)C=C(C=C1)F | C10H10BrFN2O
